US03953415
3.0 g. (2.95 mmoles) of H-25-32-OtBu and 5.46 g. (2.95 mmoles) of Z-Lys(BOC)-Lys(BOC)-Arg(NO2)-Arg(NO2)-Pro-Val-Lys(BOC)-Val-Tyr(tBu)-Pro-OH (Brit. Pat. No. 1 201 053) are dissolved in 33 ml. of DMF. The solution is cooled to 0°C, and 3.35 g. (4.42 mmoles) of DCC-PFPOH complex are added to it. The reaction mixture is kept at 0°C for 15 minutes, thereafter at room temperature for 6 hours. The separated DCU is filtered off, and the filtrate is passed into 450 ml. of dry ether. The separated crude product is filtered off and purified by precipitation from methanol with ether. 7.18 g. (85.1 %) of Z-15-32-OtBu are obtained. Rf3 = 0.35; [α]D = -26.4° (c = 0.42, in DMF).

reactant | H-Asn-Gly-Ala-Glu(OtBu)-Asp(OtBu)-Glu(OtBu)-Ser-Ala-OtBu | 2.95 mmoles | N[C@@H](CC(N)=O)C(=O)NCC(=O)N[C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](C)C(=O)OC(C)(C)C | C45H77N9O17
reactant | Z-Lys(BOC)-Lys(BOC)-Arg(NO2)-Arg(NO2)-Pro-Val-Lys(BOC)-Val-Tyr(tBu)-Pro-OH | 2.95 mmoles | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N1[C@H](C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC2=CC=C(C=C2)OC(C)(C)C)C(=O)N2[C@H](C(=O)O)CCC2)CCC1)C(=O)OCC1=CC=CC=C1 | C86H139N21O24
solvent | DMF | CN(C)C=O | C3H7NO
product | Z-Lys(BOC)-Lys(BOC)-Arg(NO2)-Arg(NO2)-Pro-Val-Lys(BOC)-Val-Tyr(tBu)-Pro-Asn-Gly-Ala-Glu(OtBu)-Asp(OtBu)-Glu(OtBu)-Ser-Ala-OtBu | 85.1 % | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N1[C@H](C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC2=CC=C(C=C2)OC(C)(C)C)C(=O)N2[C@H](C(=O)N[C@@H](CC(N)=O)C(=O)NCC(=O)N[C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](C)C(=O)OC(C)(C)C)CCC2)CCC1)C(=O)OCC1=CC=CC=C1 | C131H214N30O40
